US08426417B2
Step (d). 1-methyl-2-{2-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-pyrimidin-4-yl}-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one hydrochloride (A1C3M2)
To a solution of methyl-2-{2-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-pyrimidin-4-yl}-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester (25 mg, 0.037 mmol) in tetrahydrofuran (1 mL), 4M HCl in dioxane (0.4 mL) were added. The solution was stirred at room temperature over night. The solvent was evaporated under vacuo to yield 22 mg (98%) of the title compound as a beige powder.

reactant | methyl-2-{2-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-pyrimidin-4-yl}-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 0.037 mmol, 25 mg | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N(C(=C2)C2=NC(=NC=C2)NC2=C(C=CC(=C2)N2CCN(CC2)C)OC(F)(F)F)C)=O | C29H34F3N7O4
reactant | HCl | 4M | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
product | 1-methyl-2-{2-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-pyrimidin-4-yl}-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one hydrochloride | 22 mg, 98% | Cl.CN1C(=CC=2C(NCCC21)=O)C2=NC(=NC=C2)NC2=C(C=CC(=C2)N2CCN(CC2)C)OC(F)(F)F | InChI=1S/C24H26F3N7O2.ClH/c1-32-9-11-34(12-10-32)15-3-4-21(36-24(25,26)27)18(13-15)31-23-29-7-5-17(30-23)20-14-16-19(33(20)2)6-8-28-22(16)35;/h3-5,7,13-14H,6,8-12H2,1-2H3,(H,28,35)(H,29,30,31);1H
